US06291465B1
To a solution of 2.70 g (12.6 mmol) 4′-fluoro-2′-methyl-biphenyl-2-carbaldehyde in 75 ml aceton and 25 ml H2O 3.38 g (21.4 mmol) KMnO4 were added and the mixture stirred for 20 hrs. The solvent was evaporated, the residue treated with 100 ml H2O and 100 ml CH2Cl2 and the pH of the aqueous phase was adjusted to 1 with conc. H2SO4. After filtration through Hyflo, the phases were separated and the aqueous phase washed twice with 100 ml CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH 19:1) to give 4′-fluro-2′-methyl-biphenyl-2-carboxylic acid as a colorless solid, MS (EI): 230, (M+).

reactant | 4′-fluoro-2′-methyl-biphenyl-2-carbaldehyde | 12.6 mmol, 2.70 g | FC1=CC(=C(C=C1)C=1C(=CC=CC1)C=O)C | C14H11FO
reactant | H2O | 21.4 mmol, 25 ml, 3.38 g | O | H2O
solvent | aceton | 75 ml | CC(=O)C | C3H6O
product | 4′-fluro-2′-methyl-biphenyl-2-carboxylic acid | FC1=CC(=C(C=C1)C=1C(=CC=CC1)C(=O)O)C | C14H11FO2
